US07709494B2
(1S)-3-(4,5-Diphenylpyrimidin-2-yloxy)cyclohexanecarboxylic acid
Methyl (1S)-3-(4,5-diphenylpyrimidin-2-yloxy)cyclohexanecarboxylate 1.5 g (2.12 mmol) of diphenylperfluorodecylphosphine were added to a solution of 280 mg (1.76 mmol) of methyl (1S,3R)-3-hydroxycyclohexanecarboxylate in 2 ml of tetrahydrofuran. After 30 minutes, 525 mg (2.12 mmol) of 4,5-diphenylpyrimidin-2-ol and 2 ml of tetrahydrofuran were added, and the mixture was again stirred for 30 minutes. A solution of 1.77 g (2.12 mmol) of bis(perfluorononyl) azodicarboxylate in 2 ml of tetrahydrofuran was slowly added dropwise (exothermic reaction) and stirred at room temperature for 2 hours. It was not possible to convert the suspension into a solution by adding 1 ml of dimethylformamide. The reaction mixture was filtered with suction (precipitate corresponds to 408 mg of 4,5-diphenylpyrimidin-2-ol). The filtrate was filtered twice through a FluoroFlash cartridge and washed with methanol/water=4/1, and the filtrate was concentrated. The residue was separated on a silica gel column (heptane/ethyl acetate, 10 minutes 100% heptane, gradient from 0% to 45% ethyl acetate in 45 minutes). 28 mg (4%) of the desired product were obtained.

reactant | Methyl (1S)-3-(4,5-diphenylpyrimidin-2-yloxy)cyclohexanecarboxylate | 2.12 mmol, 1.5 g | C1(=CC=CC=C1)C1=NC(=NC=C1C1=CC=CC=C1)OC1C[C@H](CCC1)C(=O)OC | C24H24N2O3
reactant | diphenylperfluorodecylphosphine | C1(=CC=CC=C1)P(C(C(C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)(F)C1=CC=CC=C1 | C22H10F23P
reactant | methyl (1S,3R)-3-hydroxycyclohexanecarboxylate | 1.76 mmol, 280 mg | O[C@H]1C[C@H](CCC1)C(=O)OC | C8H14O3
reactant | 4,5-diphenylpyrimidin-2-ol | 2.12 mmol, 525 mg | C1(=CC=CC=C1)C1=NC(=NC=C1C1=CC=CC=C1)O | C16H12N2O
reactant | bis(perfluorononyl) azodicarboxylate | 2.12 mmol, 1.77 g | N(=NC(=O)OC(C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)C(=O)OC(C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C20F38N2O4
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | (1S)-3-(4,5-Diphenylpyrimidin-2-yloxy)cyclohexanecarboxylic acid | 28 mg, 4% | C1(=CC=CC=C1)C1=NC(=NC=C1C1=CC=CC=C1)OC1C[C@H](CCC1)C(=O)O | C23H22N2O3
